US04678781
The starting material was prepared by reaction of equimolar amounts of 2-bromothiazole and benzyl bromide at ambient temperature for 4 hours to give 2-bromo-3-benzylthiazolium bromide.

reactant | 2-bromothiazole | BrC=1SC=CN1 | C3H2BrNS
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-bromo-3-benzylthiazolium bromide | [Br-].BrC=1SC=C[N+]1CC1=CC=CC=C1 | InChI=1S/C10H9BrNS.BrH/c11-10-12(6-7-13-10)8-9-4-2-1-3-5-9;/h1-7H,8H2;1H/q+1;/p-1
